US05391537
Preparation of 1-(ethoxycarbonyloxy)ethyl 3-(4,6-dimethoxypyrimidin-2-yl)oxy-6-dimethylaminopicolinate (Compound No. 40)
2.0 g (5.6 mmol) of potassium 3-(4,6-dimethoxypyrimidin-2-yl)oxy-6-dimethylaminopicolinate and 0.8 g (5.7 mmol) of 1-(ethoxycarbonyloxy) ethylchloride were suspended in 5 ml of dimethylformamide, and were stirred at room temperature for 6 hours. The reaction mixture was poured into water, and was extracted with ethyl acetate twice. The organic layer was then washed with water and dried, and the solvent was distilled off to obtain a viscous product which was then column-purified to obtain an aimed compound.

reactant | potassium 3-(4,6-dimethoxypyrimidin-2-yl)oxy-6-dimethylaminopicolinate | 5.6 mmol, 2.0 g | COC1=NC(=NC(=C1)OC)OC=1C(=NC(=CC1)N(C)C)C(=O)[O-].[K+]
reactant | 1-(ethoxycarbonyloxy) ethylchloride | 5.7 mmol, 0.8 g | C(C)OC(=O)OC(C)Cl | C5H9ClO3
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(ethoxycarbonyloxy)ethyl 3-(4,6-dimethoxypyrimidin-2-yl)oxy-6-dimethylaminopicolinate | COC1=NC(=NC(=C1)OC)OC=1C(=NC(=CC1)N(C)C)C(=O)OC(C)OC(=O)OCC | C19H24N4O8
